US07030160B2
a) 1-(3-methylsulfonylamino-4-benzyloxyphenoxy)-3-(7-piperidinocarbonylmethoxy-tetralin-2-yl-amino)-2-propanol
2.34 g (0.0052 mole) of 3-(N-methylsulfonyl-N-tert-butoxycarbonylamino)-4-benzyloxy-1-(2,3-epoxypropoxy)-benzene, 71 ml of ethanol and 1.44 g (0.0052 mole) of 2-amino-7-piperidinocarbonylmethoxy-tetralin from preparation 1 (base, racemate) were heated under reflux for 8 hours. It was stirred at ambient temperature overnight and then it was heated again under reflux for a further 6 hours. The solvent was evaporated off, the residue was taken up in 40 ml of ethyl acetate and 32.1 ml of a 3N solution of hydrochloric acid in ethyl acetate were added. It was heated under reflux for 5 hours and evaporated under reduced pressure. It was taken up in water, NH4OH was added until the pH was basic, and it was extracted with ethyl acetate. It was dried, the solvent was evaporated off and the product was purified by silica gel column flash chromatography, eluting with a 9:1 methylene chloride/methanol mixture. 1.3 g of the product of the heading was obtained.

reactant | 3-(N-methylsulfonyl-N-tert-butoxycarbonylamino)-4-benzyloxy-1-(2,3-epoxypropoxy)-benzene | 0.0052 mole, 2.34 g | CS(=O)(=O)N(C(=O)OC(C)(C)C)C=1C=C(C=CC1OCC1=CC=CC=C1)OCC1CO1 | C22H27NO7S
reactant | 2-amino-7-piperidinocarbonylmethoxy-tetralin | 0.0052 mole, 1.44 g | NC1CC2=CC(=CC=C2CC1)OCC(=O)N1CCCCC1 | C17H24N2O2
solvent | ethanol | 71 ml | C(C)O | C2H6O
product | 1-(3-methylsulfonylamino-4-benzyloxyphenoxy)-3-(7-piperidinocarbonylmethoxy-tetralin-2-yl-amino)-2-propanol | 1.3 g | CS(=O)(=O)NC=1C=C(OCC(CNC2CC3=CC(=CC=C3CC2)OCC(=O)N2CCCCC2)O)C=CC1OCC1=CC=CC=C1 | C34H43N3O7S
